US04980509
There is prepared in a first stage a solution of sodium hypobromite by adding, at 0° C., 3 cm3 of bromine to a stirred solution containing 7.5 g of soda in 35 cm3 of water. Then, there is slowly introduced a suspension of 1 g of 2-acetyl-6-ethylsulfonyl naphthalene dispersed in 20 cm3 of dioxan in a fashion to maintain the temperature of the reaction mixture lower than 5° C. At the end of the addition, this temperature is again maintained for 1 hour and then there are slowly added at ambient temperature 15 g of sodium metabisulfite dissolved in 150 cm3 of water. On acidifying the mixture with HCl, the anticipated acid precipitates. It is filtered, washed thoroughly with water and dried. 0.95 g of 6-ethylsulfonyl-2-naphthalene carboxylic acid in the form of a white powder whose melting point is 241° C. is obtained.

reactant | sodium hypobromite | Br[O-].[Na+]
reactant | bromine | 3 cm3 | BrBr | Br2
reactant | 2-acetyl-6-ethylsulfonyl naphthalene | 1 g | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)S(=O)(=O)CC | C14H14O3S
reactant | sodium metabisulfite | 15 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 35 cm3 | O | H2O
solvent | dioxan | 20 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 150 cm3 | O | H2O
product | 6-ethylsulfonyl-2-naphthalene carboxylic acid | 0.95 g | C(C)S(=O)(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C13H12O4S
